US08487094B2
A mixture of (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one (5.83 g, 15 mmol), 4-fluorophenylboronic acid (3 g, 22 mmol), PdCl2(PPh3)2 (1 g, 1.4 mmol), and aqueous Cs2CO3 solution (2 M, 8.0 mL) in 1,4-dioxane (50 mL) was heated to reflux for 2 h. The mixture was filtered, and the filtrate was extracted with EtOAc (3×). The combined organic layer was washed with brine, dried over Na2SO4 and concentrated to give the crude product, which was purified by preparative TLC to give (R)-6-allyl-3-((S)-1-(4′-fluorobiphenyl-4-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one (5.3 g, 88%).

reactant | (R)-6-allyl-3-((S)-1-(4-bromophenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 15 mmol, 5.83 g | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)Br)C1=CC=CC=C1 | C21H22BrNO2
reactant | 4-fluorophenylboronic acid | 22 mmol, 3 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | Cs2CO3 | 2 M, 8.0 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 1.4 mmol, 1 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | (R)-6-allyl-3-((S)-1-(4′-fluorobiphenyl-4-yl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 5.3 g, 88% | C(C=C)[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C27H26FNO2
